US03953490
(3-Trifluoromethylphenoxy)(4-chlorophenyl)acetonitrile is added to a solution of 2-acetamidoethanol (20.6 g., 0.2 mole) in anhydrous dimethylformamide (25 ml.). The reaction mixture is cooled to -10°C. and saturated with hydrogen chloride (50 g., 1.37 mole) and stirred for 5 hours at -10° to 0°C. To this reaction mixture containing 2-acetamidoethyl (3-trifluoromethylphenoxy)(4-chlorophenyl)iminoacetate hydrochloride is added methylene chloride (200 ml.) and then water (100 ml.). The organic layer is collected, washed with water (2 × 100 ml.) and then dried over magnesium sulfate. The dried solution is decolorized with carbon, filtered and then slowly diluted with hexane (1 liter) to afford 10.7 g. (25% yield) of 2-acetamidoethyl (3-trifluoromethylphenoxy)(4-chlorophenyl)acetate, m.p. 93°-95°C.

reactant | (3-Trifluoromethylphenoxy)(4-chlorophenyl)acetonitrile | FC(C=1C=C(OC(C#N)C2=CC=C(C=C2)Cl)C=CC1)(F)F | C15H9ClF3NO
reactant | 2-acetamidoethanol | 0.2 mole, 20.6 g | C(C)(=O)NCCO | C4H9NO2
reactant | hydrogen chloride | 1.37 mole, 50 g | Cl | ClH
reactant | 2-acetamidoethyl (3-trifluoromethylphenoxy)(4-chlorophenyl)iminoacetate hydrochloride | Cl.FC(C=1C=C(OC(C(=O)OCCNC(C)=O)=NC2=CC=C(C=C2)Cl)C=CC1)(F)F
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 2-acetamidoethyl (3-trifluoromethylphenoxy)(4-chlorophenyl)acetate | 25% yield | FC(C=1C=C(OC(C(=O)OCCNC(C)=O)C2=CC=C(C=C2)Cl)C=CC1)(F)F | C19H17ClF3NO4
